datasets/RMG-dataset.csv
rxn,Ea
[H:0].[c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]2[c:10]1[H:17]>>[H:0][c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]2[c:10]1[H:17],0.0
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][O:8]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:7][O:8],157.125936
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19])[H:5],-3.3472
[C:0]([N:1][H:5])([H:2])([H:3])[H:4].[O:6]>>[C:0](=[N:1][H:5])([H:3])[H:4].[H:2][O:6],-3.72376
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:7])([H:5])[H:6],63.2202
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[S:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11](=[S:12])[H:13],33.8904
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17],37.2376
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],44.7688
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:24])[H:12],12.5938
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])[H:9])([H:7])[H:8],30.2922
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1]=[N:2][H:7])([H:3])([H:4])[H:5].[H:6][C:8]([H:9])([H:10])[H:11],9.2048
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:19])([H:20])[H:21])[C:14]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14]([H:22])([H:23])[H:24])[H:4],34.267
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14],58.576
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[O:5])[H:10])[H:9])[H:8])[H:7])[H:6]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]=[O:5])[H:9])[H:8])[H:7])([H:6])[H:10],17.229712
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:22])([H:23])[H:24])=[C:16]([C:17]([H:25])([H:26])[H:27])[C:18]([H:28])([H:29])[H:30])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:16]([C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([C:17]([H:25])([H:26])[H:27])[C:18]([H:28])([H:29])[H:30])[H:5],29.6646
[C:0](#[C:1][H:3])[H:2].[C:4]([C:5]([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1][H:3])([H:2])[C:5]([C:4]([H:12])([H:13])[H:14])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15],42.0074
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:18][O:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][O:18][O:19],213.09112
